US04150032
3,9b-Dimethyl-3a-hydroxy-8-methoxy-2-oxo-2,3,3a,4,5,9b-hexahydro-1H-benz[e]indole
The solution of 22.0 g (79.7 mmol) ethyl-7-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-1-naphthaleneacetate (IXb) and 7.5 g (240 mmol) methylamine in 25 ml ethanol was left at room temperature for 24 hr. The crystalline precipitate formed was separated to give 15.5 g (74.5%) Xb, m.p. 182°-186°. From the mother liquor, after evaporation (35°) and treatment with ether, 1.0 g, additional Xb was collected increasing the yield to 79.5%; IR (Nujol), 3300 (OH), 1670 cm-1 (lactam); NMR (CDCl3 -DMSO) δ, 1.48 (s, 3, CH3), 2.82 (s, 3, N--CH3), 3.78 (s, 3, OCH3), 6.6-7.1 (m, 3, ArH).

reactant | ethyl-7-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-1-naphthaleneacetate | 79.7 mmol, 22.0 g | C(C)OC(CC1(C(CCC2=CC=C(C=C12)OC)=O)C)=O | C16H20O4
reactant | methylamine | 240 mmol, 7.5 g | CN | CH5N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3,9b-Dimethyl-3a-hydroxy-8-methoxy-2-oxo-2,3,3a,4,5,9b-hexahydro-1H-benz[e]indole | CN1C(CC2(C3=C(CCC12O)C=CC(=C3)OC)C)=O | C15H19NO3
